US05068340
26(a) A solution of 42.57 g of ethyl 3-oxostearate (prepared as described in Preparation 25). 9.71 g of ethylene glycol and 1 g of camphorsulfonic acid in 200 ml of toluene was heated under reflux for 24 hours, and the water produced was removed through a side arm attached to a water separator. The mixture was allowed to cool, and then washed, in turn, with a saturated aqueous solution of sodium bicarbonate and with water. It was then dried and concentrated by evaporation under reduced pressure, to give 29.66 g of crude ethyl 3,3-ethylenedioxystearate.

reactant | ethyl 3-oxostearate | 42.57 g | O=C(CC(=O)OCC)CCCCCCCCCCCCCCC | C20H38O3
reactant | ethylene glycol | 9.71 g | C(CO)O | C2H6O2
reactant | water | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | camphorsulfonic acid | 1 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
product | ethyl 3,3-ethylenedioxystearate | 29.66 g | C1OC(CC(=O)OCC)(CCCCCCCCCCCCCCC)OC1 | C22H42O4
